US04898863
To a solution of 6-carboxyindazole (4.0 g) in acetic acid (140 ml) was added bromine (1.53 ml), and the mixture was stirred in the dark for 24 hours. After the addition of saturated sodium bisulfite (50 ml) and brine (100 ml), the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried (MgSO4) and evaporated. The resulting solid was powdered and vacuum dried to afford 3-bromo-6-carboxyindazole as a light brown solid (5.88 g, 99%), mp >250°.

reactant | 6-carboxyindazole | 4.0 g | C(=O)(O)C1=CC=C2C=NNC2=C1 | C8H6N2O2
reactant | bromine | 1.53 ml | BrBr | Br2
reactant | sodium bisulfite | 50 ml | S([O-])(O)=O.[Na+]
solvent | acetic acid | 140 ml | C(C)(=O)O | C2H4O2
solvent | brine | 100 ml | [Cl-].[Na+].O
product | 3-bromo-6-carboxyindazole | 5.88 g, 99% | BrC1=NNC2=CC(=CC=C12)C(=O)O | C8H5BrN2O2
